US07897619B2
3-Methyl-5-(2-(trimethylsilyl)ethynyl)-1H-indazole:
5-Bromo-3-methyl-1H-indazole (1.72 g, 8.2 mmol), PdCl2(PPh)2 (1.14 g, 1.64 mmol), CuI (155 mg, 0.82 mmol) and ethynyltrimethylsilane (3.5 mL, 24.6 mmol) were dissolved in 180 mL Et3N and refluxed over night. The mixture was cooled to room temperature, filtered and evaporated. The residue was taken up in MeOH (100 mL), filtered again and evaporated. The product thus obtained was purified on glass column chromatography (20% EtOAc in hexane). The title compound was obtained as a dark solid. LCMS (API-ES) m/z (%): 229.0 (100%, M++H).

reactant | 5-Bromo-3-methyl-1H-indazole | 8.2 mmol, 1.72 g | BrC=1C=C2C(=NNC2=CC1)C | C8H7BrN2
reactant | ethynyltrimethylsilane | 24.6 mmol, 3.5 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | Et3N | 180 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 0.82 mmol, 155 mg | [Cu]I
product | 3-Methyl-5-(2-(trimethylsilyl)ethynyl)-1H-indazole | CC1=NNC2=CC=C(C=C12)C#C[Si](C)(C)C | C13H16N2Si
